US08633173B2
N-Methyl-N-(2-{[2-(2-methyl-2,3-dihydro-1H-isoindol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-methanesulfonamide was prepared from N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (75.0 mg, 0.205 mmol) and 2-methyl-2,3-dihydro-1H-isoindol-5-ylamine (34.0 mg, 0.229 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.052 g, 53%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.82 (d, J=6.6 Hz, 1H), 7.55-7.50 (m, 2H), 7.37-7.28 (m, 4H), 7.13 (d, J=7.9 Hz, 1H), 6.70-6.65 (m, 2H), 6.37 (d, J=7.7 Hz, 1H), 5.23 (t, J=5.7 Hz, 1H), 4.73 (d, J=6.3 Hz, 2H), 3.94 (s, 2H), 3.88 (s, 2H), 3.31 (s, 3H), 3.01 (s, 3H), 2.60 (s, 3H). MS=478 (MH)+.

reactant | N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.205 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | 2-methyl-2,3-dihydro-1H-isoindol-5-ylamine | 0.229 mmol, 34.0 mg | CN1CC2=CC=C(C=C2C1)N | C9H12N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{[2-(2-methyl-2,3-dihydro-1H-isoindol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)CNC=1C=2N(C=CC1)N=C(N2)NC=2C=C1CN(CC1=CC2)C | C24H27N7O2S
